US09145435B2
tert-butyl 4-[(E)-4-[4-[[4-methyl-1-[(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-(acetoxymethyl)tetrahydropyran-2-yl]indol-3-yl]methyl]phenyl]but-3-enyl]-4,9-diazaspiro[5.5]undecane-9-carboxylate
To a 20 L temperature controlled reactor charge [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[(4-bromophenyl)methyl]-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate (1.37 moles; 1.18 kg; 73% purity), tert-butyl 8-[(E)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)but-3-enyl]-3,8-diazaspiro[5.5]undecane-3-carboxylate (1.79 moles; 776.46 g), potassium carbonate (3.85 moles; 532.03 g), THF (11.80 L) and water (1.18 L). Degas the mixture by subsurface nitrogen purge for 30 minutes and then add Pd(OAc)2 (54.99 mmoles; 12.35 g) and XPhos (54.99 mmoles; 26.22 g). Heat the mixture to 65° C. and stir overnight. Charge additional XPhos (13.75 mmoles; 6.55 g) and Pd(OAc)2 (13.75 mmoles; 3.09 g) and continue to stir at 65° C. for about 1 hour. Prepare a solution of tert-butyl 8-[(E)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)but-3-enyl]-3,8-diazaspiro[5.5]undecane-3-carboxylate (343.71 mmoles; 149.32 g) in THF (500 mL) and degas by subsurface purge with nitrogen for 5 mins. Add this solution to the main reaction mixture and continue stirring at 65° C. for about 3 hours. Cool the reaction mixture to room temperature and pump into a 50 L vessel equipped with a bottom outlet valve. Dilute the mixture with iso-hexane (11.80 L) and wash with brine (11.80 L). Separate the layers and filter the organic phase through a pad of silica gel (2.95 kg). Wash the pad twice with a mixture of THF (5.90 L) and iso-hexane (5.90 L). Concentrate the filtrate under reduced pressure to give the title compound (1.695 Kg; 62% purity as judged by quantative NMR; 88% yield), mass spectrum (m/z): 858.4 (M+1).

reactant | [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[(4-bromophenyl)methyl]-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate | 1.37 moles, 1.18 kg | C(C)(=O)OC[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)OC(C)=O)N1C=C(C2=C(C=CC=C12)C)CC1=CC=C(C=C1)Br | C30H32BrNO9
reactant | tert-butyl 8-[(E)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)but-3-enyl]-3,8-diazaspiro[5.5]undecane-3-carboxylate | 1.79 moles, 776.46 g | CC1(OB(OC1(C)C)/C=C/CCN1CC2(CCN(CC2)C(=O)OC(C)(C)C)CCC1)C | C24H43BN2O4
reactant | potassium carbonate | 3.85 moles, 532.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1.18 L | O | H2O
reactant | tert-butyl 8-[(E)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)but-3-enyl]-3,8-diazaspiro[5.5]undecane-3-carboxylate | 343.71 mmoles, 149.32 g | CC1(OB(OC1(C)C)/C=C/CCN1CC2(CCN(CC2)C(=O)OC(C)(C)C)CCC1)C | C24H43BN2O4
solvent | THF | 500 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 54.99 mmoles, 12.35 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Pd(OAc)2 | 13.75 mmoles, 3.09 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | XPhos | 54.99 mmoles, 26.22 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
catalyst | XPhos | 13.75 mmoles, 6.55 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | THF | 11.80 L | C1CCOC1 | C4H8O
product | tert-butyl 4-[(E)-4-[4-[[4-methyl-1-[(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-(acetoxymethyl)tetrahydropyran-2-yl]indol-3-yl]methyl]phenyl]but-3-enyl]-4,9-diazaspiro[5.5]undecane-9-carboxylate | 1.695 Kg, 62% | CC1=C2C(=CN(C2=CC=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)OC(C)=O)COC(C)=O)CC1=CC=C(C=C1)/C=C/CCN1CCCC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C48H63N3O11
